US07659268B2
Step b: 3-(6-(1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-(methoxycarbonyl)pyridin-2-yl)benzoic acid
TFA (1 mL) was added to a solution of methyl 2-(3-(tert-butoxycarbonyl)-phenyl)-6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)nicotinate (290 mg, 0.50 mmol) in CH2Cl2 (2.5 mL). The reaction mixture was stirred at room temperature for 2 hours. The mixture was diluted with CH2Cl2 and neutralized with saturated aqueous NaHCO3. A white precipitate formed which was filtered, washed with H2O and air-dried to yield the product as a white solid (240 mg, 91%). ESI-MS m/z calc. 496.1, found 497.5 (M+1)+. Retention time 1.91 minutes. 1H NMR (400 MHz, DMSO-d6) δ 9.61 (s, 1H), 8.24 (d, J=8.7 Hz, 1H), 8.11 (d, J=8.7 Hz, 1H), 7.98-7.96 (m, 2H), 7.62 (d, J=7.8 Hz, 1H), 7.55-7.51 (m, 2H), 7.40-7.33 (m, 2H), 3.62 (s, 3H), 1.55-1.52 (m, 2H), 1.22-1.19 (m, 2H).

reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | methyl 2-(3-(tert-butoxycarbonyl)-phenyl)-6-(1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)nicotinate | 0.50 mmol, 290 mg | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)C1=C(C(=O)OC)C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1 | C29H26F2N2O7
solvent | CH2Cl2 | 2.5 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | 3-(6-(1-(2,2-Difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamido)-3-(methoxycarbonyl)pyridin-2-yl)benzoic acid | 240 mg, 91% | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=CC=C(C(=N2)C=2C=C(C(=O)O)C=CC2)C(=O)OC)F | C25H18F2N2O7
